data/mechanisms/records/IMS8-EQ8.55c.json
{"mechanism_id": "IMS8-EQ8.55c", "species": [{"species_id": "ring_opened_allyl_distonic_ion", "mapped_smiles": "[CH2:3]=[CH:2][CH+:1][CH:6]([1H:8])[CH:5]([1H:7])[CH2:4]", "role": "precursor_ion", "charge": 1, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}, {"species_id": "hexa_1_3_diene_radical_cation", "mapped_smiles": "[CH2:3]=[CH:2][CH+:1][CH:6][CH:5]([1H:8])[CH2:4][1H:7]", "role": "intermediate", "charge": 1, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}], "states": [{"state_id": "state_precursor", "species_ids": ["ring_opened_allyl_distonic_ion"]}, {"state_id": "state_products", "species_ids": ["hexa_1_3_diene_radical_cation"]}], "steps": [{"step_id": "step_random_h_rearrangement", "from_state": "state_precursor", "to_state": "state_products", "step_class": "hydrogen_rearrangement", "semantics": "formal_arrow_step", "electron_moves": [{"source": {"type": "atom", "atom_maps": [4]}, "target": {"type": "bond", "atom_maps": [4, 7]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [5, 7]}, "target": {"type": "bond", "atom_maps": [4, 7]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [5, 7]}, "target": {"type": "atom", "atom_maps": [5]}, "electron_count": 1}, {"source": {"type": "atom", "atom_maps": [5]}, "target": {"type": "bond", "atom_maps": [5, 8]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [6, 8]}, "target": {"type": "bond", "atom_maps": [5, 8]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [6, 8]}, "target": {"type": "atom", "atom_maps": [6]}, "electron_count": 1}], "reaction_smirks": null, "reversible": false}], "evidence": [{"evidence_id": "ev_step_rh", "source_id": "mclafferty_ims_4e", "target_type": "step", "target_id": "step_random_h_rearrangement", "support_type": "textbook_proposed", "locator": {"page": 181, "equation": "8.55", "figure": null, "panel": null, "section": "8.9 Decompositions of cyclic structures"}, "confidence": 0.65, "curator_note": "Equation 8.55, LOWER 'rH' branch off the ring-opened distonic ion, followed down the vertical arrow to the isomerised acyclic diene ion. Book draws 2 arc(s), both single-barbed fishhooks, both starting at an explicitly written H: (i) the H on C5 - the carbon that carries the '.CH2' group - to the radical dot on C4, and (ii) the H on C6 to C5. Net effect of the two drawn hydrogen shifts: the terminal .CH2 becomes the CH3 that the product structure shows, and the radical site walks two carbons along the chain (C4 -> C6), where it ends up adjacent to the allyl-cation carbon C1, i.e. exactly the acyclic 1,3-hexadiene radical cation CH2=CH-CH=CH-CH2-CH3 that the page draws in brackets with '+.'. Moves <2,5> ARE the two drawn fishhooks (each carries one electron of a breaking C-H sigma bond into the forming C-H bond); moves <1,4> (the acceptor radical's odd electron into the forming C-H bond) and <3,6> (the second electron of the breaking C-H sigma bond, left behind on the donor carbon) are implicit hooks required for electron balance and are NOT drawn on the page. LOCALIZATION (convention C): the drawn product carries two fully formed C=C bonds plus a bracketed '+.'; this record writes the localisation in which the second (ionised) pi bond is split into C1(+) and C6(.) on adjacent carbons - the same ion, and the only RDKit-parseable way to place the charge and the odd electron where the mechanism puts them. The migrating hydrogens are isotope-tagged [1H:7] (C5 -> C4) and [1H:8] (C6 -> C5) so RDKit keeps them as separately mapped atoms. 'rH' is the book's random/skeletal hydrogen rearrangement; the prose below the scheme attributes the poor isomeric specificity to 'the tendency of hydrocarbons to undergo random rearrangements'."}], "ms_context": {"ionization_method": "EI", "polarity": "positive", "adduct": "[M]+•", "activation_method": "70 eV EI", "collision_energy": null, "electron_energy_ev": 70.0, "precursor_mz": 82.0777, "precursor_charge": 1, "instrument_type": "unspecified"}, "peak_assignments": [{"peak_id": "peak_hexadiene_82", "species_id": "hexa_1_3_diene_radical_cation", "step_id": "step_random_h_rearrangement", "observed_mz": 82.0777, "relative_intensity": null, "hydrogen_shift": 0, "isotope_offset": 0, "status": "inferred", "confidence": 0.3}], "curation": {"schema_version": "1.0.0", "record_version": 1, "extraction_method": "vision_multiagent", "review_status": "unreviewed", "created_at": "2026-07-27T00:00:00Z", "modified_at": "2026-07-27T00:00:00Z"}}
